US07449580B2
Synthesis of 2-(2-methoxymethoxyethyl)thiophene (Compound of Formula 2c)
150 g of 2-thiopheneethanol was dissolved in 2,250 mL of dimethoxymethane, and 22.3 g of p-toluenesulfonic acid and 20.3 g of lithium chloride were added thereto. The resulting mixture was refluxed for 5 hours and concentrated by evaporation under reduced pressure. To the residue, 1,000 mL of water and 1,500 mL of n-hexane were added, and the resulting mixture was stirred for 5 minutes. Aqueous layer was discarded, and the organic layer was washed twice with 700 mL portions of water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 193 g (yield of 96%) of the title compound as a colorless oil.

reactant | 2-thiopheneethanol | 150 g | S1C(=CC=C1)CCO | C6H8OS
reactant | p-toluenesulfonic acid | 22.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | lithium chloride | 20.3 g | [Cl-].[Li+]
reactant | dimethoxymethane | 2,250 mL | COCOC | C3H8O2
product | 2-(2-methoxymethoxyethyl)thiophene | 193 g, yield of 96% | COCOCCC=1SC=CC1 | C8H12O2S
